US07820649B2
a) 7-Methyl-1,4-diazepan-5-one
Ethane-1,2-diamine (1.35 g, 22.44 mmol) and (E)-ethyl but-2-enoate (2.56 g, 22.44 mmol) in MeOH (22 mL) was stirred at room temperature overnight. Solvent was evaporated under reduced pressure and crude product purified by chromatography on silica gel with a gradient of DCM to DCM:2M NH3/MeOH (4:1, v/v) as eluent. This afforded a mixture of desired product and uncyclised material. The mixture was diluted with MeOH (4 mL) and heated in the microwave at 150° C. for 10 min followed by 160° C. for 10 min. Sodium bicarbonate (100 mg) was added and the reaction mixture stirred at room temperature for 48 h. The reaction mixture was filtered, solvent evaporated under reduced pressure and crude product purified by chromatography on silica gel with a gradient of DCM to DCM:2M NH3/MeOH (4:1, v/v) as eluent to afford 7-methyl-1,4-diazepan-5-one (310 mg, 2.42 mmol, 11%).

reactant | Ethane-1,2-diamine | 22.44 mmol, 1.35 g | C(CN)N | C2H8N2
reactant | (E)-ethyl but-2-enoate | 22.44 mmol, 2.56 g | C(\C=C\C)(=O)OCC | C6H10O2
solvent | MeOH | 22 mL | CO | CH4O
product | 7-Methyl-1,4-diazepan-5-one | CC1CC(NCCN1)=O | C6H12N2O
